data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_355552_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[C:4](/[C:5](=[N:2]/[H:7])[H:12])([H:11])[O:6]1>>[C:1]1([N:3]([H:9])[H:10])([H:8])[N:2]([H:7])[C:5]([H:12])=[C:4]([H:11])[O:6]1,40.306207500000966
MR_278294_1,[C:1]1([C:4]([N:8]([H:9])[H:10])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:2]([C:6]([H:19])([H:20])[H:21])([C:7]([H:18])([H:22])[H:23])[C:3]1([H:11])[H:12]>>[C:1]([C:3]([C:2]([C:6]([H:19])([H:20])[H:21])([C:7]([H:18])([H:22])[H:23])[N:8]([H:9])[H:10])([H:11])[H:12])(=[C:4]([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],70.56300250001343
MR_56898_0,[C:1]([C:3]([O:5][C:2]([H:11])([H:12])[H:13])=[O:6])([N:4]([H:7])[H:8])([H:9])[H:10]>>[C:1]([N:4]([H:7])[H:8])([O:5][C:3]([C:2]([H:11])([H:12])[H:13])=[O:6])([H:9])[H:10],64.4957049999941
MR_494391_1,[C:1]([O:4][H:7])([O:5][H:8])(/[N:6]=[C:3](/[N:2]([H:10])[H:11])[H:12])[H:9]>>[C:1]([O:4][H:7])([O:5][H:8])=[N:6][C:3]([N:2]([H:10])[H:11])([H:9])[H:12],72.40973499998788
MR_551868_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:6]([C:2]([H:14])([H:15])[H:16])=[O:10])(/[C:7]([C:4]([H:20])([H:21])[H:22])=[C:8](/[C:5]([H:23])([H:24])[H:25])[N:9]([H:12])[H:13])[H:11]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:7](\[C:4]([H:20])([H:21])[H:22])[C:8]([C:5]([H:23])([H:24])[H:25])([C:6]([C:2]([H:14])([H:15])[H:16])=[O:10])[N:9]([H:12])[H:13])[H:11],60.27953250000948
MR_361465_2,[C:1]1([C:2]([H:10])([H:11])[H:12])(/[C:5]([C:3]([H:13])([H:14])[H:15])=[N:8]/[H:9])[C:4](=[C:6]([H:16])[H:17])[O:7]1>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:4](/[C:5]([C:3]([H:13])([H:14])[H:15])=[N:8]/[H:9])=[C:6]([H:16])[H:17])=[O:7],63.85565500000496
MR_353944_0,[C:1]([O:4][C:2](=[C:3]([H:8])[H:9])[H:7])(=[O:5])[H:6]>>[C:1]([C:3]([C:2](=[O:4])[H:7])([H:8])[H:9])(=[O:5])[H:6],54.39797499998491
MR_99162_1,[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]1([C:6]([H:21])([H:22])[H:23])[C:2]([O:8][H:10])([H:11])[O:9]1>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]([C:2](=[O:8])[H:11])([C:6]([H:21])([H:22])[H:23])[O:9][H:10],35.72294749998008
MR_372736_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[N:5]([C:2]([H:9])([H:10])[H:11])[C:6]([C:4]([H:15])([H:16])[H:17])=[N:7]1>>[C:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[N:5]([C:2]([H:9])([H:10])[H:11])[N:7]=[C:6]1[C:4]([H:15])([H:16])[H:17],66.55516000000219
MR_465669_0,[C:1]([N:3](/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[O:6][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](/[C:5]([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13],53.56590999998119
MR_663884_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]1([H:7])[C:4]([H:8])=[C:5]1[C:6]([H:11])([H:15])[H:16])([H:9])[H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:3](=[C:4](\[C:5](=[C:6]([H:15])[H:16])[H:11])[H:8])[H:7])([H:9])[H:10],72.27105749998131
MR_93494_2,[C:1]([C:3]([C:2]([C:6]([H:22])([H:23])[H:24])([C:7]([H:25])([H:26])[H:27])[H:11])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:8]([C:5]([H:19])([H:20])[H:21])=[O:10])[N:9]([H:12])[H:13]>>[C:1]([C:3]([C:2]([C:6]([H:22])([H:23])[H:24])=[C:7]([H:26])[H:27])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:8]([C:5]([H:19])([H:20])[H:21])([O:10][H:25])[H:11])[N:9]([H:12])[H:13],60.8656174999922
MR_134291_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:5](/[N:4]([H:8])[H:9])[H:12])([O:6][H:7])([H:10])[H:11]>>[C:1](=[C:3](\[C:2]([H:13])([H:14])[H:15])[C:5]([N:4]([H:8])[H:9])([H:11])[H:12])(\[O:6][H:7])[H:10],68.30463000000819
MR_520155_1,[C:1]([O:6][H:9])(/[N:7]=[C:5](/[C:3]([H:15])([H:16])[H:17])[C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([H:10])[H:11]>>[C:1](=[N:7][C:5]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[O:8]1)([H:10])[H:11],41.8021674999693
MR_488451_1,[C:1](/[C:2]([N:4]([H:11])[H:12])=[N:7]\[N:3]([H:9])[H:10])([O:5][O:6][H:8])([H:13])[H:14]>>[C:1]([C:2]([N:4]([H:11])[H:12])([O:6][H:8])/[N:7]=[N:3]/[H:10])([O:5][H:9])([H:13])[H:14],40.42355000002573
MR_535225_1,[C:1](/[C:3](=[N:2]/[H:8])[C:6]([N:4]([H:9])[H:10])([C:5](=[O:7])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3]([N:2]([C:5](=[O:7])[H:11])[H:8])=[C:6](\[N:4]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],52.55124250004613
MR_420568_1,[C:1]([C:2]([O:6][H:12])=[O:8])([C:3]([O:7][H:13])=[O:9])([O:4][H:10])[O:5][H:11]>>[C:1]1([O:4][H:10])([O:5][H:11])[C:2]([C:3]([O:7][H:13])=[O:9])([O:6][H:12])[O:8]1,39.86382000001214
MR_206588_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([H:10])[H:11])[C:5](=[O:7])[H:12])([O:6][H:8])[H:9]>>[C@:1]([C:2]([H:13])([H:14])[H:15])([O:6][H:8])([O:7]/[C:5](=[N:3]\[N:4]([H:10])[H:11])[H:12])[H:9],58.773532500030825
MR_665744_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([O:8][H:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])/[N:6]=[N:7]/[H:11]>>[C:1]1([C:2]([C:5]([H:18])([H:19])[H:20])([O:8][H:9])[H:10])([C:4]([H:15])([H:16])[H:17])[C:3]([H:13])([H:14])[N:6]1[N:7]([H:11])[H:12],73.07300249998974
